US07691882B2
3-(3-Biphenyl-3-ylmethyl-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of biphenyl-3-yl-acetohydroximoyl chloride (60 mg) described in Manufacturing Example 85-1-3 and tetrahydrofuran (3 mL) were added 3-ethynyl-pyridin-2,6-diamine (15 mg, 0.11 mmol) described in Manufacturing Example 13-1-3 and triethylamine (94 μL, 0.68 mmol), which was stirred for 2 hours at room temperature. Water was added to the reaction mixture at the same temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound in a crude product. Then, the residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (32 mg, 62%) as a trifluoroacetic acid salt.

reactant | biphenyl-3-yl-acetohydroximoyl chloride | 60 mg | C1(=CC(=CC=C1)CC(=NO)Cl)C1=CC=CC=C1 | C14H12ClNO
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.11 mmol, 15 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.68 mmol, 94 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-Biphenyl-3-ylmethyl-isoxazol-5-yl)-pyridin-2,6-diamine | C1(=CC(=CC=C1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N)C1=CC=CC=C1 | C21H18N4O
